US07687502B2
1-[3-Methyl-2-([4-[(1-methyl-pyrazol-3-yl)amino]-quinazolin-6-yl]oxy)phenyl]ethanone
4-[(1-Methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol (71 mg; 0.295 mmol) and 90 mg (0.592 mmol) of 1-(2-fluoro-3-methylphenyl)ethanone were added to a solution of 82 mg (0.732 mmol) of tert-butoxy potassium in 5 ml of N,N-dimethylacetamide and the mixture was stirred at 130° C. for 5 hours. Water was added to the reaction solution and the mixture was extracted with chloroform. The organic layer was dried and concentrated and the resulting residue was purified by a silica gel chromatography (chloroform:methanol=12:1) to give 6 mg (yield: 5%) of the title compound as a colorless solid.

reactant | 4-[(1-Methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | 0.295 mmol, 71 mg | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
reactant | 1-(2-fluoro-3-methylphenyl)ethanone | 0.592 mmol, 90 mg | FC1=C(C=CC=C1C)C(C)=O | C9H9FO
reactant | tert-butoxy potassium | 0.732 mmol, 82 mg | C(C)(C)(C)O[K]
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | 1-[3-Methyl-2-([4-[(1-methyl-pyrazol-3-yl)amino]-quinazolin-6-yl]oxy)phenyl]ethanone | 6 mg, yield: 5% | CC=1C(=C(C=CC1)C(C)=O)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C | C21H19N5O2
